US04016209
In a third alternative synthesis of monomer I, 3-aminopropanol is added to acrylonitrile yielding 3-(2-cyanoethyl)aminopropanol, which in turn is converted in two steps to 3-[N-(2-cyanoethyl)-N-formylamino]propanol. The nitrile function of the latter is catalytically reduced to a primary amine function which in turn is exhaustively alkylated with a methyl halide to yield a 3-[N'-formyl-N'-(3-hydroxypropyl)amino]-N,N,N-trimethyl-1-propanaminium halide. Reduction of the formyl moiety in the latter to a methyl function is accomplished by treating this intermediate with a formic acid-formalin mixture at 60° C.-100° C. for 10-24 hours, followed by acidification with the appropriate aqueous hydrogen halide and concentration to dryness yielding a 3-[N'-(3-hydroxypropyl)-N'-methylamino] -N,N,N-trimethyl-1-propanaminium halide hydrohalide. Conversion of this intermediate to 3-[N'-(3-halopropyl)-N'-methylamino]-N,N,N-trimethyl-1-propanaminium halide hydrohalide is accomplished as described in our preferred synthesis of monomer I above, and anion exchange, if desired, is effected by any of the heretofore described procedures.

reactant | 3-aminopropanol | NCCCO | C3H9NO
reactant | acrylonitrile | C(C=C)#N | C3H3N
product | 3-(2-cyanoethyl)aminopropanol | C(#N)CCNCCCO | C6H12N2O
